data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-c2ccccc2_2-c2ccccc2_3-C3CC3","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(c2ccccc2)(c2ccccc2))(C3CC3)"],"products_smiles": ["C(=C(c2ccccc2)(c2ccccc2))C(C3CC3)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(c2ccccc2)(c2ccccc2))(C3CC3)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(c2ccccc2)(c2ccccc2))(C3CC3)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(c2ccccc2)(c2ccccc2))(C3CC3)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(c2ccccc2)(c2ccccc2))C(C3CC3)","rationale": "The carbene undergoes a 1,2-shift of c2ccccc2 or c2ccccc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-113_1-C(C)(C)C_2-c1ccccc1_3-c1ccccc1_4-CC_5-c1ccccc1","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C(C)(C)C)#[N+][O-]","c1ccccc1/C(c1ccccc1)=C(/CC)c1ccccc1"],"products_smiles": ["C1(C(C)(C)C)=NOC(CC)(c1ccccc1)C1(c1ccccc1)(c1ccccc1)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)=NOC(CC)(c1ccccc1)C1(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
